US07625908B2
Sodium hydride (60% dispersion in mineral oil, 220 mg, 5.50 mmol) was suspended in DMA (30 ml) and 2-pyridin-2-ylpropan-2-ol (obtained as described in Organometallics, 1997, 16, 3303, 754 mg, 5.50 mmol) was added under an atmosphere of nitrogen. The mixture was stirred for 30 minutes at ambient temperature, then cooled to 0° C. 3-Chloro-4-fluoronitrobenzene (878 mg, 5.00 mmol) was added as a solution in DMA (15 ml); the mixture was warmed to room temperature, and was stirred for 2 hours. The mixture was concentrated in vacuo, and the residue partitioned between ethyl acetate (75 ml) and water (75 ml). The aqueous layer was extracted with ethyl acetate (75 ml), and the extractions combined with the organic layer. The combined organics were dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography, eluting with 0 to 20% ethyl acetate in iso-hexane, giving 2-[1-(2-chloro-4-nitrophenoxy)-1-methylethyl]pyridine as a pale yellow solid (810 mg, 55%); NMR Spectrum (DMSO-d6, 400 MHz, CDCl3) 1.91 (s, 6H), 6.40 (d, 1H), 7.25 (ddd, 1H), 7.50 (d, 1H), 7.70 (ddd, 1H), 7.82 (dd, 1H), 8.30 (d, 1H), 8.65 (d, 1H); Mass spectrum MH+ 293.0, 295.0.

reactant | Sodium hydride | 5.50 mmol, 220 mg | [H-].[Na+]
reactant | 2-pyridin-2-ylpropan-2-ol | 5.50 mmol, 754 mg | N1=C(C=CC=C1)C(C)(C)O | C8H11NO
reactant | 3-Chloro-4-fluoronitrobenzene | 5.00 mmol, 878 mg | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
solvent | DMA | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 15 ml | CC(=O)N(C)C | C4H9NO
product | 2-[1-(2-chloro-4-nitrophenoxy)-1-methylethyl]pyridine | 810 mg, 55% | ClC1=C(OC(C)(C)C2=NC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C14H13ClN2O3
